US07074800B1
To a solution of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 9), in DMF (10 ml) was added potassium carbonate (124 mg, 0.9 mmol, 3eq.) followed by 2-hydroxycarbazole (66 mg, 0.36 mmol, 1.2eq.) and the reaction heated at 100° C. for 4 hours. The DMF was removed in vacuo, the residue dissolved in dichloromethane and placed onto a 2 g SCX ion-exchange column. Elution with dichloromethane, followed by 20% methanol/dichloromethane then 20% methanol/dichloromethane+3% ammonium hydroxide, gave the crude product as a brown solid. Further purification by silica bond elut chromatography eluting with dichloromethane to 15% methanol/dichloromethane+1% ammonium hydroxide, followed by trituration with ether gave 4-(9H-carbazol-2-yloxy)-6-methoxy-7–3-(pyrrolidin-1-yl)propoxy)quinazoline (31 mg, 22%) as a white solid.

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | potassium carbonate | 0.9 mmol, 124 mg, 3eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxycarbazole | 0.36 mmol, 66 mg, 1.2eq. | OC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H9NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | quinazoline | 31 mg, 22% | N1=CN=CC2=CC=CC=C12 | C8H6N2
